US05273982
N-(t-butoxycarbonyl)-β-alanine was reacted with DL-3-phenyl-β-alanine benzyl ester to give DL-N-[N-(t-butoxycarbonyl)-β-alanyl]-3-phenyl-β-alanine benzyl ester, m.p. 124.5°-126° C.

reactant | N-(t-butoxycarbonyl)-β-alanine | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | 3-phenyl-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CC(N)C1=CC=CC=C1)=O | C16H17NO2
product | N-[N-(t-butoxycarbonyl)-β-alanyl]-3-phenyl-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CC(NC(CCNC(=O)OC(C)(C)C)=O)C1=CC=CC=C1)=O | C24H30N2O5
